US07572809B2
A mixture of [1-Chloro-6-methoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine (150 mg), isopropenyl boronic acid pinacol ester (70 μl), Na2CO3 (70 mg), Tetrakis(triphenylphosphine)palladium(0) (10 mg), DMF (0.5 ml) and water (0.5 ml) was heated at 180° C. for 30 minutes under microwave irradiation. After reaction finished, the reaction mixture was purified by preparative LC-MS to give [1-Isopropenyl-6-methoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine (120 mg). LC-MS: m/e 369(MH+).

reactant | [1-Chloro-6-methoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 150 mg | ClC1=NC(=CC2=CC(=C(C=C12)OCCOC)OC)NC1=NNC(=C1)C | C17H19ClN4O3
reactant | isopropenyl boronic acid pinacol ester | 70 μl | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | Na2CO3 | 70 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.5 ml | O | H2O
product | [1-Isopropenyl-6-methoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 120 mg | C(=C)(C)C1=NC(=CC2=CC(=C(C=C12)OCCOC)OC)NC1=NNC(=C1)C | C20H24N4O3
